US04022833
Condensation of 1-undecene oxide and 1,4-butanediamine affords N,N'-(1,4-butylene)-bis[2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R' = H, X= (CH2)4, Z= H).

reactant | 1-undecene oxide | C1C(CCCCCCCCC)O1 | C11H22O
reactant | 1,4-butanediamine | C(CCCN)N | C4H12N2
product | N,N'-(1,4-butylene)-bis[2-hydroxyundecylamine] | C(CCCNCC(CCCCCCCCC)O)NCC(CCCCCCCCC)O | C26H56N2O2
